US08497368B2
(E)-2-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)-hydrazinecarbothioamide
The title compound was prepared from hydrazine carbothioamide hydrochloride and 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone in analogy to the synthesis of example 1 in 60% yield as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ ppm 10.53 (s, 1H), 8.88 (dd, 1H), 8.53 (s, 1H), 8.47 (d, 1H), 8.34 (m, 2H), 8.10 (d, 1H), 7.99 (d, 1H), 7.85 (s, 1H), 7.79 (d, 1H), 7.50 (q, 1H), 4.59 (s, 2H), 2.34 (s, 3H). LCMS (method A): [MH]+=394, tR=4.91 min.

reactant | hydrazine carbothioamide hydrochloride | Cl.N(N)C(N)=S
reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)C(C)=O | C18H13FN4O
product | (E)-2-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)-hydrazinecarbothioamide | 60% yield | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)\C(\C)=N\NC(N)=S | C19H16FN7S
